US08580762B2
(1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-((isopropyl (3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)cyclopentane-1,2-diol
Trifluoroacetic Acid (10 mL, 100 mmol) added to a mixture of Water (1 mL, 60 mmol) and N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (0.91 g, 1.2 mmol) at RT. The reaction was stirred overnight at RT then quenched by the addition of Triethylsilane (0.37 mL, 2.3 mmol). The volatiles were removed in vacuo and resulting residue was taken up in MeOH (15 mls). 500 mgs of K2CO3 and 8 drops H2O were added and reaction stirred at RT for 1 hour. Mixture was filtered and filter cake washed with 10 mls MeOH. The filtrate was concentrated and the resulting residue purified by flash chromatography (DCM/7N NH3 in MeOH 90:10) to yield the desired product (0.232 g) as an off white foam. MS (ESI+) for C29H36F3N7O3 m/z 588.2 [M+H]+; MS (ESI−) for C29H36F3N7O3 m/z 586.2 [M−H]−; HPLC purity >90% (ret. time, 2.570 min.) 1H NMR (400 MHz, d4-MeOH) δH 8.082 & 8.079 (s, 1H, overlapping peaks due to cis and trans isomers), 7.554-7.524 (m, 1H), 7.414 (s, 1H), 7.225-7.209 (m, 1H), 7.155-7.127 (m, 1H), 6.618-6.609 (m, 1H), 4.363-4.323 (m, 1H), 3.976-3.932 (m, 1H), 3.606-3.524 (m, 0.5H (methine from trans isomer)), 3.156-3.110 (m, 0.5H (methine from cis isomer), 3.089-3.006 (m, 1H), 2.731-2.679 (m, 1H), 2.544-2.360 (m, 2H), 2.256-2.239 (m, 3H), 2.093-2.061 (m, 2H), 1.987-1.861 (m, 3H), 1.648-1.568 (m, 2H), 1.072-1.006 (m, 6H).

reactant | Trifluoroacetic Acid | 100 mmol, 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Water | 60 mmol, 1 mL | O | H2O
reactant | N-(2,4-dimethoxybenzyl)-7-((3aS,4R,6R,6aR)-6-((isopropyl(3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 1.2 mmol, 0.91 g | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3C[C@@H]([C@H]2OC(O[C@H]23)(C)C)CN(C2CC(C2)CCC2=NC3=C(N2)C=CC(=C3)OC(F)(F)F)C(C)C)C=CC(=C1)OC | C41H50F3N7O5
reactant | Triethylsilane | 2.3 mmol, 0.37 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | K2CO3 | 500 mgs | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 15 mls | CO | CH4O
catalyst | H2O | 8 drops | O | H2O
product | (1R,2S,3R,5R)-3-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-((isopropyl (3-(2-(5-(trifluoromethoxy)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)cyclopentane-1,2-diol | 0.232 g | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(C2CC(C2)CCC2=NC1=C(N2)C=CC(=C1)OC(F)(F)F)C(C)C)O)O | C29H36F3N7O3
